* TestBench: analogcoder_pro_p20_opamp_full_testbench
* Circuit: analogcoder_pro_p20_opamp
* Category: full
*
.OPTIONS POST=2 PROBE

* AnalogCoder-Pro p20: A two-stage differential opamp (first stage: common-source with an active load and a tail current, second stage: common-source with an active load)
* Source: analogcoder\AnalogCoderPro-master\sample_design\p20\p20.py
* AnalogCoder-Pro type: Opamp
* Inputs: Vinp, Vinn, Vbias1, Vbias2, Vbias3
* Outputs: Voutp, Vout

.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.5)
.MODEL pmos_model PMOS (LEVEL=1 KP=5e-05 VTO=-0.5)

Vdd Vdd 0 5
Vinp Vinp 0 DC 2.5 AC 1n
Vinn Vinn 0 DC 2.5 AC 1n
Vb1 Vbias1 0 1
Vb2 Vbias2 0 4
Vb3 Vbias3 0 4
M1 Voutp Vinp Stail Stail nmos_model W=5e-05 L=1e-06
M2 Outn Vinn Stail Stail nmos_model W=5e-05 L=1e-06
M3 Stail Vbias1 0 0 nmos_model W=5e-05 L=1e-06
M4 Voutp Vbias2 Vdd Vdd pmos_model W=0.0001 L=1e-06
M5 Outn Vbias2 Vdd Vdd pmos_model W=0.0001 L=1e-06
M6 Vout Voutp 0 0 nmos_model W=0.0001 L=1e-06
M7 Vout Vbias3 Vdd Vdd pmos_model W=0.0001 L=1e-06
M8 Nbias Vbias3 Vdd Vdd pmos_model W=0.0001 L=1e-06
Rb Nbias 0 10k

.OP
.AC DEC 100 1 1G

.TEMP 27.0
.TRAN 1n 50u 0

.END